US09371320B2
B) 7-methoxy-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrrolo[2,3-c]pyridine-4-carbonitrile
To a solution of 4-bromo-7-methoxy-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrrolo[2,3-c]pyridine (1.80 g) in DMA (20.15 mL) were added tetrakis(triphenylphosphine)palladium(0) (0.58 g) and zinc cyanide (0.88 g) at room temperature, and the mixture was stirred at 100° C. for 1 hr. The reaction mixture was concentrated under reduced pressure, and the obtained residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (1.51 g).

reactant | 4-bromo-7-methoxy-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrrolo[2,3-c]pyridine | 1.80 g | BrC1=C2C(=C(N=C1)OC)N(C=C2)COCC[Si](C)(C)C | C14H21BrN2O2Si
reactant | DMA | 20.15 mL | CC(=O)N(C)C | C4H9NO
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.58 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | zinc cyanide | 0.88 g | [C-]#N.[Zn+2].[C-]#N
product | 7-methoxy-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrrolo[2,3-c]pyridine-4-carbonitrile | 1.51 g | COC1=NC=C(C2=C1N(C=C2)COCC[Si](C)(C)C)C#N | C15H21N3O2Si
